US06274758B1
(E)-3-(Methoxybenzenesulfonyl)-2-[(3,4,4-trimethyl-2,5-dioxoimidazolidin-1-yl)propyl]acrylic acid
Sodium 4-methoxyphenylsulfinate (10.0 g, 51.49 mmol) was dissolved in water (100 ml). This solution was shaken with iodine (9.8 g, 36.61 mmol) in dichloromethane (100 ml). The dichloromethane layer turned from deep pink to orange. The dichloromethane layer was dried over magnesium sulfate and filtered into a flask containing sodium 2-carboxy-5-(3,4,4-trimethyl-2,5-dioxoimidazolidin-1-yl)pent-1-ene-1-sulfinate (6.47 g, 25.74 mmol). The solution was stired overnight at room temperature and then cooled to 0° C. Triethylamine (11.0 ml, 77.23 mmol) was added and the solution was allowed to warm to room temperature over 2 hours. Sulfuric acid (2M, 50 ml) was added to quench the reaction. The organic phase was washed with 10% aqueous sodium bisulfite (50 ml), then extracted with sodium hydroxide (2M, 3×50 ml). The aqueous layer was washed with dichloromethane (50 ml) and the acidifed with sulfuric acid (2M) to pH 1. The product was extracted into dichloromethane (3×50 ml) and the combined organic layers were washed with brine (20 ml), dried over magnesium sulfate, filtered and evaporaed to give the title compound in 88% yield. This yellow oil was crystallised from MTBE/DCM 40:1 to give the title compound as a white solid (5.6 g, 51%).

reactant | Sodium 4-methoxyphenylsulfinate | 51.49 mmol, 10.0 g | COC1=CC=C(C=C1)S(=O)[O-].[Na+]
reactant | iodine | 36.61 mmol, 9.8 g | II | I2
reactant | sodium 2-carboxy-5-(3,4,4-trimethyl-2,5-dioxoimidazolidin-1-yl)pent-1-ene-1-sulfinate | 25.74 mmol, 6.47 g | C(=O)(O)C(=CS(=O)[O-])CCCN1C(N(C(C1=O)(C)C)C)=O.[Na+]
reactant | Triethylamine | 77.23 mmol, 11.0 ml | C(C)N(CC)CC | C6H15N
reactant | Sulfuric acid | 2M, 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (E)-3-(Methoxybenzenesulfonyl)-2-[(3,4,4-trimethyl-2,5-dioxoimidazolidin-1-yl)propyl]acrylic acid | 88% yield | COC1=C(C=CC=C1)S(=O)(=O)/C=C(/C(=O)O)\CCCN1C(N(C(C1=O)(C)C)C)=O | C19H24N2O7S
